US07504433B2
1-[3-Methyl-5-(4-trifluoromethyl-phenyl)-thiophen-2-yl]-ethanone
To a solution of 1-[3-Methyl-5-(4-trifluoromethyl-phenyl)-thiophen-2-yl]-ethanol (see Preparation 8) (4.40 g, 15.4 mmole), is added MnO2 (7.88 g, 77.0 mmole) in one portion. The mixture is heated under reflux for 16 hours, more MnO2 (7.88 g, 77.0 mmole) is added to the reaction and continued to reflux for 4 hours. The mixture is filtered through a celite pad, and the mother liquid is concentrated. The crude product is purified on a silica gel column, gradient eluting with 0-20% ethyl acetate in hexane and concentrated to provide the titled compound as yellow solid.

reactant | 1-[3-Methyl-5-(4-trifluoromethyl-phenyl)-thiophen-2-yl]-ethanol | 15.4 mmole, 4.40 g | CC1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(C)O | C14H13F3OS
catalyst | MnO2 | 77.0 mmole, 7.88 g | O=[Mn]=O
catalyst | MnO2 | 77.0 mmole, 7.88 g | O=[Mn]=O
product | 1-[3-Methyl-5-(4-trifluoromethyl-phenyl)-thiophen-2-yl]-ethanone | CC1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(C)=O | C14H11F3OS
